US08609656B2
1-[4-(6-(Methylamino)purin-9-yl)phenyl]-3-(4-morpholin-4-ylmethyl-3-(trifluoromethyl)phenyl)urea (Table 2, Compound No. 47)
The title compound can be prepared from morpholine and (9-{4-[3-(4-formyl-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-methyl-carbamic acid tert-butyl ester by the same techniques as in Example 168.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | (9-{4-[3-(4-formyl-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)C=O)C(F)(F)F)=O | C26H24F3N7O4
product | 1-[4-(6-(Methylamino)purin-9-yl)phenyl]-3-(4-morpholin-4-ylmethyl-3-(trifluoromethyl)phenyl)urea | CNC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)CN1CCOCC1)C(F)(F)F | C25H25F3N8O2
